US04647561
A solution of 2,5-dihydro-4-methyl-2-(3-nitrophenyl)-1H-1,5-benzodiazepine-3-carboxylic acid, methyl ester (800 mg., 2.36 mmole) in dichloromethane (8 ml.) is treated with pyridine (280 mg., 3.53 mmole), acetic anhydride (479 mg., 4.72 mmole) and 4-dimethylaminopyridine (5 mg.). The reaction is stirred at room temperature for 16 hours. A light yellow solid precipitates out of the reaction. The reaction is diluted with dichloromethane/methanol (100 ml. of 95:5 mixture) and the resulting solution is washed with 10% citric acid, 5% sodium bicarbonate, and brine. After drying over anhydrous magnesium sulfate, the solvent is evaporated to give a yellow foam. This foam is triturated with ether to give 705 mg. of yellow crystals. Recrystallization from dichloromethane-methanol-isopropanol gives an analytically pure sample of 1-acetyl-2,5-dihydro-4-methyl-2-(3-nitrophenyl)-1H-1,5-benzodiazepine-3-carboxylic acid, methyl ester as yellow crystals; m.p. 231°-232.5°. TLC(silica gel; acetone:hexane, 40:60) Rf = 0.28.

reactant | 2,5-dihydro-4-methyl-2-(3-nitrophenyl)-1H-1,5-benzodiazepine-3-carboxylic acid, methyl ester | 2.36 mmole, 800 mg | CC=1NC2=C(NC(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C=CC=C2 | C18H17N3O4
reactant | pyridine | 3.53 mmole, 280 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 4.72 mmole, 479 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-acetyl-2,5-dihydro-4-methyl-2-(3-nitrophenyl)-1H-1,5-benzodiazepine-3-carboxylic acid, methyl ester | C(C)(=O)N1C(C(=C(NC2=C1C=CC=C2)C)C(=O)OC)C2=CC(=CC=C2)[N+](=O)[O-] | C20H19N3O5
